US05672609
2-(4-Hydroxyphenyl)-3-(4-methoxyphenyl)-6-(4-fluorophenyl)pyridine
The 2-(4-benzyloxyphenyl)-3-(4-methoxyphenyl)-6-(4-fluorophenyl)pyridine (1.2 g, 2.6 mmol) was dissolved in 50 mL of THF/ EtOH (1:1), 5% Pd/ C (0.3 g, 0.14 mmol Pd) added, and the reaction mixture hydrogenated at 40 psi for 4 h at rt. The reaction mixture was filtered and concentrated to give 0.86 g (90% yield) of white foam: mp 143°-145° C.; 1H NMR (CDCl3) d 3.83 (s, 3H, OCH3), 4.78 (s, 1H, ArOH), 6.72-6.75 (d, 2H, J=8 Hz, ArH), 6.84-6.87 (d, 2H, J=8 Hz, ArH), 7.14-7.27 (m, 4H, ArH), 7.37-7.40 (d, 2H, J=8 Hz, ArH), 7.69-7.73 (m, 2H, ArH), 8.10-8.15 (m, 2H, ArH); MS(FD) 371(M+). Anal. Calcd for C24H18 NO2F: C, 77.61; H, 4.89; N, 3.77. Found: C, 77.88; H, 5.12; N, 3.51.

reactant | 2-(4-benzyloxyphenyl)-3-(4-methoxyphenyl)-6-(4-fluorophenyl)pyridine | 2.6 mmol, 1.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NC(=CC=C1C1=CC=C(C=C1)OC)C1=CC=C(C=C1)F | C31H24FNO2
solvent | THF EtOH | 50 mL | C1CCOC1.CCO
catalyst | Pd | [Pd] | Pd
catalyst | Pd | 0.14 mmol, 0.3 g | [Pd] | Pd
product | 2-(4-Hydroxyphenyl)-3-(4-methoxyphenyl)-6-(4-fluorophenyl)pyridine | 0.86 g, 90% yield | OC1=CC=C(C=C1)C1=NC(=CC=C1C1=CC=C(C=C1)OC)C1=CC=C(C=C1)F | C24H18FNO2
